US04975463
Ethyl 4-acetoxy-5,8-dimethoxy-2-naphthoate
4-(2',5'-Dimethoxyphenyl)-2 carbethoxy 3-butenoic acid. Sodium hydride (2.4 g, 104 mmol) and benzene (50 mL) were stirred under nitrogen. Absolute ethanol (0.5 mL) was added, followed by a dropwise addition of a solution of 2,5-dimethoxybenzaldehyde (6.97 g, 42 mmol) in freshly distilled diethyl succinate (20 mL) at a rate sufficient to maintain a steady evolution of hydrogen and a temperature of approximately 40° C. The mixture was stirred for 1 hour, and acetic acid (10 mL, 175 mmol) was cautiously added, followed by water (20 mL). An ethereal solution of the product was repeatedly washed with an excess of 2N Na2CO3, and the combined washings were acidified and extracted with ether. The ether layer was dried (MgSO4), filtered, and removed, providing the title compound in 55% yield, mp=110.5°-111.5° C.

reactant | 4-(2',5'-Dimethoxyphenyl)-2 carbethoxy 3-butenoic acid | COC1=C(C=C(C=C1)OC)C=CC(C(=O)O)C(=O)OCC | C15H18O6
reactant | Sodium hydride | 104 mmol, 2.4 g | [H-].[Na+]
reactant | 2,5-dimethoxybenzaldehyde | 42 mmol, 6.97 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | diethyl succinate | 20 mL | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 175 mmol, 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 4-acetoxy-5,8-dimethoxy-2-naphthoate | 55% yield | C(C)(=O)OC1=CC(=CC2=C(C=CC(=C12)OC)OC)C(=O)OCC | C17H18O6
